US09284271B2
3-(2-azidoethyl)-5,6-dichloro-2-(triethylsilyl)-1H-indole was prepared according to method D Step IV with 3-(2-bromoethyl)-5,6-dichloro-2-(triethylsilyl)-1H-indole (0.548 g; 1.35 mmol) and sodium azide (0.262 g; 4.04 mmol) in DMF (8 mL); the yield was quantitative as a brown oil.

reactant | 3-(2-bromoethyl)-5,6-dichloro-2-(triethylsilyl)-1H-indole | 1.35 mmol, 0.548 g | BrCCC1=C(NC2=CC(=C(C=C12)Cl)Cl)[Si](CC)(CC)CC | C16H22BrCl2NSi
reactant | sodium azide | 4.04 mmol, 0.262 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3-(2-azidoethyl)-5,6-dichloro-2-(triethylsilyl)-1H-indole | N(=[N+]=[N-])CCC1=C(NC2=CC(=C(C=C12)Cl)Cl)[Si](CC)(CC)CC | C16H22Cl2N4Si
